.suckt  two_stage_fully_differential_op_amp_7_7 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m2 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m3 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos
m4 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m5 outFeedback outFeedback sourceNmos sourceNmos nmos
m6 FeedbackStageYsourceTransconductance1 ibias sourcePmos sourcePmos pmos
m7 FeedbackStageYsourceTransconductance2 ibias sourcePmos sourcePmos pmos
m8 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m9 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m10 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m11 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m12 out1FirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos
m13 FirstStageYsourceGCC1 outFeedback sourceNmos sourceNmos nmos
m14 out2FirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos
m15 FirstStageYsourceGCC2 outFeedback sourceNmos sourceNmos nmos
m16 out1FirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos
m17 FirstStageYinnerTransistorStack1Load2 ibias sourcePmos sourcePmos pmos
m18 out2FirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos
m19 FirstStageYinnerTransistorStack2Load2 ibias sourcePmos sourcePmos pmos
m20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m21 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m22 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m23 out1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m24 out1 out1FirstStage sourcePmos sourcePmos pmos
m25 out2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m26 out2 out2FirstStage sourcePmos sourcePmos pmos
m27 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m28 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m29 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m30 ibias ibias sourcePmos sourcePmos pmos
.end two_stage_fully_differential_op_amp_7_7

